US06555570B2
(2E)-5-tert-Butoxycarbonylamino-3,5-dimethylhex-2-enoic acid (0.30 g; 1.17 mmol.) was dissolved in methylene chloride (10 mL). 1-Hydroxy-7-azabenzotriazol (0.16 g; 1.17 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.26 g; 1.28 mmol) were added and the reaction mixture was stirred for 15 min at room temperature. N-Methyl-2-methylamino-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)-3-(2-naphthyl)propionamide (0.47 g; 1.67 mmol) was dissolved in methylene chloride (10 mL) and added. Diisopropylethylamine (0.20 mL; 1.66 mmol ) was added and the reaction was stirred for 12 hours at room temperature. Methylene chloride (10 mL) was added and the reaction was washed with water (10 mL), an aqueous solution of sodium hydrogen sulfate (10%; 10 mL) and an aqueous solution of sodium hydrogen carbonate (pH 8; 10 mL) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was chromatographed on silica (3×30 cm) using ethyl acetate/methylene chloride (1:1) as eluent to afford 0.37 g of ((3E)-1,1,3-trimethyl-4-(methyl-((1R)-1-(methyl-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)but-3-enyl)carbamic acid tert butylester.

reactant | (2E)-5-tert-Butoxycarbonylamino-3,5-dimethylhex-2-enoic acid | 1.17 mmol, 0.30 g | C(C)(C)(C)OC(=O)NC(C/C(=C/C(=O)O)/C)(C)C | C13H23NO4
reactant | 1-Hydroxy-7-azabenzotriazol | 1.17 mmol, 0.16 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.28 mmol, 0.26 g | Cl.CN(CCCN=C=NCC)C
reactant | N-Methyl-2-methylamino-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)-3-(2-naphthyl)propionamide | 1.67 mmol, 0.47 g | CN(C(C(CC1=CC2=CC=CC=C2C=C1)NC)=O)[C@H](CC1=CC=CC=C1)C(NC)=O | C25H29N3O2
reactant | Diisopropylethylamine | 1.66 mmol, 0.20 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | ((3E)-1,1,3-trimethyl-4-(methyl-((1R)-1-(methyl-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)but-3-enyl)carbamic acid tert butylester | 0.37 g | C(C)(C)(C)OC(NC(C\C(=C\C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O)C)=O)\C)(C)C)=O | C38H50N4O5
